US04559407
1.70 g (5.45 mmol) of (2R,3R,7R,11R)-2,3-epoxy-3,7,11,15-tetramethylhexadecanol in 5 ml of methylene chloride was added dropwise while stirring at room temperature to a suspension of 1.6 g (5.45 mmol) of pyridinium chlorochromate in 50 ml of methylene chloride and the mixture was stirred at room temperature overnight. Celite was then added and the mixture was stirred with 100 ml of ether for 1 hour, subsequently filtered and rinsed with ether. The crude product was chromatographed on silica gel with toluene. There was obtained 1.46 g (87%) of (2R,3R,7R,11R)-2,3-epoxy-3,7,11,15-tetramethylhexadecanal, [α]D20 =-5.87° (c=1.5% in chloroform).

reactant | (2R,3R,7R,11R)-2,3-epoxy-3,7,11,15-tetramethylhexadecanol | 5.45 mmol, 1.70 g | O1[C@H](CO)[C@]1(CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)C | C20H40O2
reactant | pyridinium chlorochromate | 5.45 mmol, 1.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (2R,3R,7R,11R)-2,3-epoxy-3,7,11,15-tetramethylhexadecanal | 1.46 g, 87% | O1[C@@H](C=O)[C@]1(CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)C | C20H38O2
